* source ADDER_FILLTER_COMPARATOR
X_U6B         N18295 N18389 N180183 N180184 N18309 LM324
X_U6C         N18317 N18358 N18741 N18748 N18344 LM324
C_C9         N18425 N18401  10n  
C_C10         N18401 N18295  10n  
C_C11         N18313 N18344  10n  
C_C12         0 N18317  10n  
R_R47         N18401 N18309  8k  
R_R48         0 N18295  8k  
R_R49         N18389 N18309  5.7k  
R_R50         0 N18389  10k  
R_R51         N18309 N18313  7.2k  
R_R52         N18313 N18317  7.2k  
R_R53         N18358 N18344  5.7k  
R_R54         0 N18358  10k  
V_V30         N18748 0 -12
V_V31         N18741 0 12
V_V32         N180183 0 12
V_V33         N180184 0 -12
R_R55         0 N18344  1k  
V_V34         N18425 0 DC 0Vdc AC 1Vac 
R_R85         N31017 UO1  10k TC=0,0 
V_V49         N31101 0 -12
R_R84         N30967 UO1  1k TC=0,0 
V_ui3         N30967 0  AC 0
+SIN 0 0.1 500 0 0 0
R_R86         0 N31055  1k TC=0,0 
R_R87         N31055 UI2  10k TC=0,0 
V_V47         N30763 0 12
X_U9D         UO1 N31055 N30763 N31101 UI2 LM324
V_V48         N31017 0  
+PULSE -1.6 1.6 0 0.25m 0.25m 0 0.5m
V_V53         N318714 0 -12
R_R91         N32091 N32095  7.2k  
C_C22         N32091 UO2  10n  
C_C20         UI2 N32129  10n  
X_U10B         N32073 N32165 N318713 N318714 N31853 LM324
R_R88         N32129 N31853  8k  
R_R90         N31853 N32091  7.2k  
R_R93         0 N32165  10k  
R_R95         0 N32459  10k  
C_C23         0 N32095  10n  
R_R94         N32459 UO2  5k  
R_R92         N32165 N31853  5k  
C_C21         N32129 N32073  10n  
V_V51         N32305 0 12
V_V50         N32315 0 -12
R_R89         0 N32073  8k  
X_U10C         N32095 N32459 N32305 N32315 UO2 LM324
V_V52         N318713 0 12
R_R97         UO2 N32787  100k  
V_V54         N32941 0 12
R_R99         N32901 0  1k  
R_R98         0 N32861  1k  
C_C24         N32879 N32901  100u  
X_U11C         N32787 N32861 N32941 0 N32879 LM324
R_R96         UO1 N32787  100k  
R_R46         0 N34004  1k  
V_V25         N34200 0 12
V_V29         N34080 0 DC 0Vdc AC 1 
R_R43         N33990 N34004  5k  
R_R40         N33912 N33960  5k  
V_V27         N34228 0 12
R_R44         N33990 0  1k  
R_R42         0 N33980  11k  
X_U6A         N33980 N33990 N34228 N34238 N34004 LM324
C_C8         N33960 N33980  10n  
X_U5D         N33912 N34038 N34200 N34218 N33960 LM324
R_R41         N34080 N34038  6.4k  
R_R45         0 N33912  1k  
C_C7         0 N34038  10n  
V_V26         N34218 0 -12
V_V28         N34238 0 -12
